US04504415
Bos-Ser(tBu)-Asp(OtBu)-Ala-OSu
A solution of Boc-Ser(tBu)-Asp(OtBu)-Ala-OH.CHA (1.205 g, 2.0 mmol) was extracted with a mixture of EtOAc: 0.5N H2SO4 (10 mL-10 mL). The organic layer was retained, washed with saturated NaCl, dried (MgSO4) and evaporated in vacuo. The resultant free acid in EtOAc:dioxane (5 mL-10 mL) was treated with HOSu (230 mg, 2.0 mmol, 1 eq) and cooled to 0°. To the cold stirring solution DCC (412 mg, 2.0 mm, 1 eq) was added portionwise and stirring proceeded at 0° for 1 hr and at 25° for 48 hr. The reaction mixture was filtered and the filtrate evaporated to dryness and crystallized from isopropanol-petroleum ether. Yield: 631 mg (52.5%); mp 129°-136°; [α]D25 -32.74° (c 1, MeOH); Rf 0.86 (CHCl3 :MeOH:AcOH; 85-10-5); Rf 0.79 (CHCl3 :MeOH:AcOH; 80-5-2). Anal. calc. for C27H44N4O11 (600.67): C, 53.99; H, 7.38; N, 9.33. Found C, 53.85; H, 7.50; N, 9.29.

reactant | Boc-Ser(tBu)-Asp(OtBu)-Ala-OH | N([C@@H](COC(C)(C)C)C(=O)N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](C)C(=O)O)C(=O)OC(C)(C)C | C23H41N3O9
reactant | dioxane | 5 mL-10 mL | O1CCOCC1 | C4H8O2
reactant | HOSu | 2.0 mmol, 230 mg, 1 eq | ON1C(=O)CCC1=O | C4H5NO3
reactant | DCC | 412 mg, 1 eq | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Ser(tBu)-Asp(OtBu)-Ala-OSu | N[C@@H](COC(C)(C)C)C(=O)N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](C)C(=O)ON1C(=O)CCC1=O | C22H36N4O9
